*******************************************************************************
*****************************************************************
* NXP BUK7Y28_75B
*
* Polarity N-Channel
* Ratings 75V/2.80E-02OHMS/15A
*
* Date Created Mon Jun 15 01:06:06 2009
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y28_75B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 50000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0169720376176418 TC=0.00820718089086713,-1.42385728811855e-05
RBD 9 4 0.00196109769135801 TC=0.00820718089086713,-1.42385728811855e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 9.9e-10
RG 1 2 1.53820727872101

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	980
+ -20	980
+ -10	994
+ -5	1127
+ -2	926
+ -1	743
+ -0.5	647
+ -0.2	586
+ -0.1	566
+ 0	273
+ 0.1	451
+ 0.2	426
+ 0.5	344
+ 1	246
+ 2	183
+ 5	129
+ 10	102
+ 15	89
+ 20	81
+ 25	74
+ 30	70



.MODEL MINT NMOS(Vto=3.50546081512157 Kp=3.7767e+01 Nfs=850000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=84.00 Ibv=2.50E-04 Rs=1E-6 Is=4.50894330679633e-13
+ N=1 M=0.1 VJ=0.5 Fc=0.5 Cjo=0 Tt=2.5e-08)

.ENDS


*******************************************************************************
